US04267333
2-Methylcinchoninic acid has been prepared, as disclosed in Bull. Soc. Chem., France, 1956, 1294, by the reaction of isatin and acetone in 30 percent aqueous potassium hydroxide solution. However, it has been found that when isatin is reacted with 1,1,1-trifluoroacetone in an attempt to produce 2-trifluoromethyl cinchoninic acid in an analogous manner, the desired product cannot be obtained.

reactant | 2-Methylcinchoninic acid | CC1=NC2=CC=CC=C2C(=C1)C(=O)O | C11H9NO2
reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | acetone | CC(=O)C | C3H6O
reactant | 1,1,1-trifluoroacetone | FC(C(=O)C)(F)F | C3H3F3O
solvent | potassium hydroxide | [OH-].[K+]
product | 2-trifluoromethyl cinchoninic acid | FC(C1=NC2=CC=CC=C2C(=C1)C(=O)O)(F)F | C11H6F3NO2
